US06936608B2
d) 4-[3-(5,5-Dimethyl-[1,3,2]dioxaborinan-2-yl)phenyl]-2-methyl-2H-[1,2,3]triazole
A mixture of 4-(3-bromophenyl)-2-methyl-2H-[1,2,3]triazole (344 mg, 1.45 mmol), bis(neopentyl glycolato)diboron (343 mg, 1.52 mmol), potassium acetate (425 mg, 4.33 mmol) and [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) (59 mg, 5 mol %) in 1,4-dioxane (20 ml) was degassed with a stream of nitrogen for 10 min and then heated at 110° C. for 16 h. The reaction mixture was divided into two portions, then concentrated under reduced pressure and used without further purification: MS (ES+) m/z 272 [M+H]+.

reactant | 4-(3-bromophenyl)-2-methyl-2H-[1,2,3]triazole | 1.45 mmol, 344 mg | BrC=1C=C(C=CC1)C1=NN(N=C1)C | C9H8BrN3
reactant | bis(neopentyl glycolato)diboron | 1.52 mmol, 343 mg | B1(OCC(CO1)(C)C)B2OCC(CO2)(C)C | C10H20B2O4
reactant | potassium acetate | 4.33 mmol, 425 mg | C(C)(=O)[O-].[K+]
solvent | 1,4-dioxane | 20 ml | O1CCOCC1 | C4H8O2
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) | 59 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 4-[3-(5,5-Dimethyl-[1,3,2]dioxaborinan-2-yl)phenyl]-2-methyl-2H-[1,2,3]triazole | CC1(COB(OC1)C=1C=C(C=CC1)C1=NN(N=C1)C)C | C14H18BN3O2
